US07410974B2
6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline (IV)
A 500 ml 3 necked flask fitted with a stirrer, reflux condenser and protected by a calcium chloride trap was charged with 9.0 g of phosphorus pentachloride (0.043 mole) and 70 ml of phosphorus oxychloride and the mixture stirred. To this 11.3 g (0.04 mole) of 6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-(3H)quinazolinone was added and rinsed into the flask with 15 ml of phosphorus oxychloride. The mixture was heated under reflux for 4 hours, cooled in an ice bath and diluted with 150 ml of diethyl ether. The 6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline which precipitated was collected by filtration, washed with 100-150 ml of diethyl ether, slurried in 100 ml of diethyl ether and then refiltered to obtain 8.09 g of the desired product.

reactant | phosphorus pentachloride | 0.043 mole, 9.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-(3H)quinazolinone | 0.04 mole, 11.3 g | FC=1C=C2C(NC(=NC2=CC1)C=CC=1OC(=CC1)[N+](=O)[O-])=O | C14H8FN3O4
solvent | phosphorus oxychloride | 70 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-fluoro-2-[2-(5-nitro-2-furyl)vinyl]-4-chloroquinazoline | 8.09 g | FC=1C=C2C(=NC(=NC2=CC1)C=CC=1OC(=CC1)[N+](=O)[O-])Cl | C14H7ClFN3O3
